US07087626B2
3-(7-Bromo-quinolin-4-yl)-2-pyridin-2-yl-5,6-dihydro-pyrrolo[1,2-b]pyrazol-4-one
To a solution of 3-(7-bromo-quinolin-4-yl)-2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-4-ol (89.0 mg, 0.22 mmol) in dry dichloromethane (2 mL) is added Dess-Martin periodinane (301.0 mg, 0.71 mmol) and the resulting mixture stirred for 18 h. The reaction mixture is chromatographed on SiO2 (dichloromethane to 20% methanol in dichloromethane) to yield a yellow solid, 78 mg (88%).

reactant | 3-(7-bromo-quinolin-4-yl)-2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-4-ol | 0.22 mmol, 89.0 mg | BrC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2O | C20H15BrN4O
reactant | Dess-Martin periodinane | 0.71 mmol, 301.0 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-(7-Bromo-quinolin-4-yl)-2-pyridin-2-yl-5,6-dihydro-pyrrolo[1,2-b]pyrazol-4-one | BrC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2=O | C20H13BrN4O
